US05994355
Synthesis of 4-(4-Acetylbenzyl)-3,5-dichloroaniline
In 11 ml of ethylacetate were dissolved 1.1 g 4-(4-Acetylbenzyl)-3,5-dichloronitrobenzene and 3.8 g Tin (11) chloride dihydrate. The solution was allowed to proceed for one hour at temperatures ranging from 40-50° C. After completion of the reaction. The reaction mixture was poured into 100 ml ice-water, followed by extraction with 150 ml ethylacetate. The extract was washed with water and 25% ammonia solution, dried over anhydrous magnesium sulfate, and concentrated to afford the titled compound in a yield of 100%, m.p. 97-98° C.

reactant | 4-(4-Acetylbenzyl)-3,5-dichloronitrobenzene | 1.1 g | C(C)(=O)C1=CC=C(CC2=C(C=C(C=C2Cl)[N+](=O)[O-])Cl)C=C1 | C15H11Cl2NO3
reactant | Tin (11) chloride dihydrate | 3.8 g | O.O.[Sn](Cl)Cl
solvent | ethylacetate | 11 ml | C(C)OC(C)=O | C4H8O2
product | 4-(4-Acetylbenzyl)-3,5-dichloroaniline | yield of 100% | C(C)(=O)C1=CC=C(CC2=C(C=C(N)C=C2Cl)Cl)C=C1 | C15H13Cl2NO
